US08377975B2
2.0 g of methyl 2-ethyl-4-methoxy-3-methylbenzoate are dissolved in 50 ml of DCM in a 100 ml round-bottomed flask, and BBr3 is carefully added dropwise at 0° C. The mixture is left to stir at RT for 4 hours. The solvent is distilled off in vacuo, methanol is carefully added to the residue at 0° C., and the mixture is evaporated again in a rotary evaporator. This operation is repeated a further twice, giving 1.88 g of methyl 2-ethyl-4-hydroxy-3-methylbenzoate as oil, which is employed for the next step without further purification; MS-FAB (M+H+)=195,2; Rf (polar method): 1.96 min.

reactant | methyl 2-ethyl-4-methoxy-3-methylbenzoate | 2.0 g | C(C)C1=C(C(=O)OC)C=CC(=C1C)OC | C12H16O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-ethyl-4-hydroxy-3-methylbenzoate | 1.88 g | C(C)C1=C(C(=O)OC)C=CC(=C1C)O | C11H14O3
